US09420793B2
In a scintillation vial containing 15 mL of ethanol was added Pd(OAc)2 (8.3 mg, 0.037 mmol) and DPPP (31 mg, 0.073 mmol). The reaction vessel was purged with argon, capped, and heated to 60° C. for 18 hours. To this was added tert-butyl 5′-bromo-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate (250 mg, 0.74 mmol) and triethyl amine(0.21 mL, 1.5 mmol) and the mixture was heated to 90° C. for 5 minutes. Butyl vinyl ether (0.2 mL, 1.5 mmol) was added and the reaction mixture was heated to 90° C. for 4 hours under argon. The reaction mixture was cooled to room temperature and 1.0 N HCl (21 mL) was added and stirred for 2 h at RT. The reaction was neutralized with sat-NaHCO3 and extracted with EtOAc. The organic phase was concentrated and the residue was purified using 40 g Redi-Sep column, eluting with 0 to 40% ethyl acetate in heptanes, to yield 0.17 g of tert-butyl 5′-acetyl-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate. H-NMR (400 MHz, CDCl3) δ ppm 7.99 (d, 1H, J=8.0 Hz), 7.82 (s, 1H), 7.57 (d, 1H, J=8.0 Hz), 5.16 (s, 2H), 4.34 (d, 2H, J=9.5 Hz), 4.15 (d, 2H, J=9.5 Hz), 2.63 (s, 3H), 1.49 (s, 9H).

reactant | DPPP | 0.073 mmol, 31 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | tert-butyl 5′-bromo-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate | 0.74 mmol, 250 mg | BrC=1C=C2COC3(C2=CC1)CN(C3)C(=O)OC(C)(C)C | C15H18BrNO3
reactant | triethyl amine | 1.5 mmol, 0.21 mL | C(C)N(CC)CC | C6H15N
reactant | Butyl vinyl ether | 1.5 mmol, 0.2 mL | C(=C)OCCCC | C6H12O
reactant | HCl | 1.0 N, 21 mL | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
catalyst | Pd(OAc)2 | 0.037 mmol, 8.3 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | tert-butyl 5′-acetyl-3′H-spiro[azetidine-3,1′-isobenzofuran]-1-carboxylate | 0.17 g | C(C)(=O)C=1C=C2COC3(C2=CC1)CN(C3)C(=O)OC(C)(C)C | C17H21NO4
